US04563450
To a mixture of benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-[1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylate (syn isomer) (2.8 g) in methylene chloride (24 ml) were added anisole (2.8 g) and trifluoroacetic acid (7.5 g) with stirring under ice-cooling and then the resulting mixture was stirred for one hour and 15 minutes at room temperature. After the evaporation of the reaction mixture, to the residue were added water and ethyl acetate. The mixture was adjusted to pH 7.0 with a saturated aqueous solution of sodium carbonate. The aqueous layer was separated and washed with ethyl acetate (×2) and thereto were added ethyl acetate and tetrahydrofuran. The mixture was adjusted to pH 2.0 with 10% hydrochloric acid. The organic layer was separated, washed with water, dried over magnesium sulfate, treated with activated charcoal and evaporated. The residue was pulverized in isopropyl ether, collected by filtration, washed with isopropyl ether and dried to give 7-[2-methoxyimino-2-(2-formamidothiazol- 4-yl)acetamido]-3-[1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.48 g).

reactant | benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-[1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylate | 2.8 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC#C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C32H27N9O6S3
reactant | anisole | 2.8 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 7.5 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 24 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-methoxyimino-2-(2-formamidothiazol- 4-yl)acetamido]-3-[1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 1.48 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC#C)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C19H17N9O6S3
